US07208494B2
c) 6-Bromo-5-ethoxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
This compound was prepared in analogy to Example 1, intermediate d) from 6-bromo-5-hydroxy-pyrrolo [2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester, sodium hydride and ethyl bromide.

reactant | 6-bromo-5-hydroxy-pyrrolo [2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)C1=CC=2C(=NC(=C(C2)O)Br)N1C(=O)OC(C)(C)C | C15H17BrN2O5
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromide | C(C)Br | C2H5Br
product | 6-Bromo-5-ethoxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)C1=CC=2C(=NC(=C(C2)OCC)Br)N1C(=O)OC(C)(C)C | C17H21BrN2O5
